US07790712B2
To 1-cyanomethyl-1H-indole-2,6-dicarboxylic acid diethyl ester (500 mg, 1.66 mmol) in 20 mL of absolute EtOH was added PtO2 (Adams' catalyst). The reaction mixture was hydrogenated at 50 psi of hydrogen overnight. The reaction mixture was filtered through a pad of diatomaceous earth, the solid cake was washed with dichloromethane several times. The solvent was evaporated to dryness to give 468 mg of 1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-7-carboxylic acid ethyl ester as a light yellow solid.

reactant | 1-cyanomethyl-1H-indole-2,6-dicarboxylic acid diethyl ester | 1.66 mmol, 500 mg | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)C(=O)OCC)CC#N | C16H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | 1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole-7-carboxylic acid ethyl ester | 468 mg | C(C)OC(=O)C=1C=CC=2C=C3N(C2C1)CCNC3=O | C14H14N2O3
